US05495023
To a solution of (E,E)-4-ethyl-2,4-heptadien-1-ol (10.1 g) in pyridine (29 g) at 0° C. was added dropwise acetic anhydride (22.2 g). After two hours at room temperature, the reaction mixture was evaporated in vacuo. The residue was diluted with ethyl acetate, washed with 0.5N hydrochloric acid and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was chromatographed on silica gel (5% ethyl acetate in hexane) to give (E,E)-1-acetoxy-4-ethyl-2,4-heptadiene (9.75 g) as an oil.

reactant | (E,E)-4-ethyl-2,4-heptadien-1-ol | 10.1 g | C(C)/C(/C=C/CO)=C\CC | C9H16O
reactant | acetic anhydride | 22.2 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 29 g | N1=CC=CC=C1 | C5H5N
product | (E,E)-1-acetoxy-4-ethyl-2,4-heptadiene | 9.75 g | C(C)(=O)OC\C=C\C(=C\CC)\CC | C11H18O2
